US06982348B2
2) ethyl 3-(3-chlorophenyl)-3-oxo-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoate
To a solution of 3-(1,1,2,2-tetrafluoroethoxy)toluene (10.2 g, 49.0 mmol) in ethyl acetate (80 ml) were added N-bromosuccinimide (9.6 g, 53.9 mmol) and 2,2′-azobis(isobutyronitrile) (161 mg, 0.98 mmol), and the mixture was heated under reflux for 5 hrs. The reaction solution was concentrated and crystals were filtered with hexane. The filtrate was concentrated to give 3-(1,1,2,2-tetrafluoroethoxy)-α-bromotoluene. To a solution of ethyl 3-(3-chlorophenyl)-3-oxopropanoate (10.0 g, 44.1 mmol) in 1,2-dimethoxyethane (100 ml) was added sodium hydride (60% in oil, 1.76 g, 44.1 mmol) under ice-cooling, and the mixture was stirred at room temperature for 30 min. To the reaction solution was dropwise added a solution of 3-(1,1,2,2-tetrafluoroethoxy)-α-bromotoluene prepared earlier in 1,2-dimethoxyethane (50 ml), and the mixture was stirred overnight at room temperature. The reaction solution was poured into water (300 ml), and the mixture was extracted with ethyl acetate (300 ml×2). The extract was washed with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1-1:1) to give the objective substance (7.5 g, 39%).

reactant | ethyl 3-(3-chlorophenyl)-3-oxopropanoate | 44.1 mmol, 10.0 g | ClC=1C=C(C=CC1)C(CC(=O)OCC)=O | C11H11ClO3
reactant | sodium hydride | 44.1 mmol, 1.76 g | [H-].[Na+]
reactant | 3-(1,1,2,2-tetrafluoroethoxy)-α-bromotoluene | FC(C(F)F)(OC=1C=C(C=CC1)CBr)F | C9H7BrF4O
reactant | water | 300 ml | O | H2O
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | ethyl 3-(3-chlorophenyl)-3-oxo-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoate | ClC=1C=C(C=CC1)C(C(C(=O)OCC)CC1=CC(=CC=C1)OC(C(F)F)(F)F)=O | C20H17ClF4O4
